### PR TITLE
[Merged by Bors] - chore: fix more whitespace formatting

### PR DESCRIPTION
**Pull request by grunweg**
Found by extending the commandStart linter to proof bodies. Extracted from #30658.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Sl2.lean [hunk 1]
```diff
@@ -143,7 +143,7 @@ lemma mem_toLieSubalgebra_iff {x : L} {t : IsSl2Triple h e f} :
 namespace HasPrimitiveVectorWith
 
 variable {m : M} {μ : R} {t : IsSl2Triple h e f}
-local notation "ψ" n => ((toEnd R L M f) ^ n) m
+local notation "ψ " n => ((toEnd R L M f) ^ n) m
```
Comment (grunweg) [inline Mathlib/Algebra/Lie/Sl2.lean:146]: This change aligns the pretty-printer with how this symbol is used in practice.

File: Mathlib/Algebra/Pointwise/Stabilizer.lean [hunk 2]
```diff
@@ -242,8 +242,8 @@ variable {G : Type*} [CommGroup G] (s : Set G)
 @[to_additive (attr := simp)]
 lemma mul_stabilizer_self : s * stabilizer G s = s := by rw [mul_comm, stabilizer_mul_self]
 
-local notation " Q " => G ⧸ stabilizer G s
-local notation " q " => ((↑) : G → Q)
+local notation "Q" => G ⧸ stabilizer G s
```
Comment (grunweg) [inline Mathlib/Algebra/Pointwise/Stabilizer.lean:245]: These changes align the pretty-printer with how these symbols are used in practice.

File: Mathlib/Algebra/Polynomial/CoeffMem.lean [hunk 3]
```diff
@@ -24,7 +24,7 @@ of `q`.
 namespace Polynomial
 variable {ι R S : Type*} [CommRing R] [Ring S] [Algebra R S]
 
-local notation "deg("p")" => natDegree p
+local notation3 "deg("p")" => natDegree p
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/CoeffMem.lean:27]: I don't remember the details of this change, it was for the same reason as above.

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 4]
```diff
@@ -49,7 +49,7 @@ def AffineSpace (n : Type v) (S : Scheme.{max u v}) : Scheme.{max u v} :=
 namespace AffineSpace
 
 /-- `𝔸(n; S)` is the affine `n`-space over `S`. -/
-scoped[AlgebraicGeometry] notation "𝔸("n"; "S")" => AffineSpace n S
+scoped[AlgebraicGeometry] notation "𝔸(" n "; " S ")" => AffineSpace n S
```
Comment (grunweg) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:52]: This change does not change the pretty-printing, just the formatting of this line.

File: Mathlib/Analysis/LConvolution.lean [hunk 5]
```diff
@@ -52,13 +52,13 @@ noncomputable def mlconvolution (f g : G → ℝ≥0∞) (μ : Measure G) :
 
 /-- Scoped notation for the multiplicative convolution of functions with respect to a measure `μ`.
 -/
-scoped[MeasureTheory] notation:67 f " ⋆ₘₗ["μ:67"] " g:66 => MeasureTheory.mlconvolution f g μ
+scoped[MeasureTheory] notation:67 f " ⋆ₘₗ[" μ:67 "] " g:66 => MeasureTheory.mlconvolution f g μ
```
Comment (grunweg) [inline Mathlib/Analysis/LConvolution.lean:55]: This change does not change the pretty-printing, just the formatting of this line.

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 6]
```diff
@@ -52,9 +52,9 @@ class ComonObj (X : C) where
 namespace ComonObj
 
 @[inherit_doc] scoped notation "Δ" => ComonObj.comul
-@[inherit_doc] scoped notation "Δ["M"]" => ComonObj.comul (X := M)
+@[inherit_doc] scoped notation "Δ[" M "]" => ComonObj.comul (X := M)
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:55]: Same here, and in the next few files.

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 7]
```diff
@@ -154,7 +154,7 @@ instance Quotient.commGroup {G : Type*} [CommGroup G] (N : Subgroup G) : CommGro
   { toGroup := have := N.normal_of_comm; QuotientGroup.Quotient.group N
     mul_comm := fun a b => Quotient.inductionOn₂' a b fun a b => congr_arg mk (mul_comm a b) }
 
-local notation " Q " => G ⧸ N
+local notation " Q" => G ⧸ N
```
Comment (grunweg) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:157]: This one aligns the pretty-printing with the actual usage.

File: Mathlib/Tactic/Bound.lean [hunk 8]
```diff
@@ -240,7 +240,7 @@ by turning the goal into `b * c ≤ a * c`, then using `mul_le_mul_of_nonneg_rig
 contains lemmas for goals of the form `1 ≤ x, 1 < x, x ≤ 1, x < 1`.  Conversely, `gcongr` can prove
 inequalities for more types of relations, supports all `positivity` functionality, and is likely
 faster since it is more specialized (not built atop `aesop`). -/
-syntax "bound " (" [" term,* "]")? : tactic
+syntax "bound" (" [" term,* "]")? : tactic
```
Comment (grunweg) [inline Mathlib/Tactic/Bound.lean:243]: This one also fixes the pretty-printing.

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 9]
```diff
@@ -86,8 +86,8 @@ theorem LowerSemicontinuousOn.exists_isMinOn {s : Set α} (ne_s : s.Nonempty)
     apply iInf_neBot_of_directed _ _
     · change Directed GE.ge (fun x ↦ (φ ∘ (fun (a : s) ↦ f ↑a)) x)
       exact Directed.mono_comp GE.ge (fun x y hxy ↦
-        principal_mono.mpr (inter_subset_inter_right _ (preimage_mono <| Iic_subset_Iic.mpr hxy))
-        ) (IsTotal.directed _)
+        principal_mono.mpr (inter_subset_inter_right _ (preimage_mono <| Iic_subset_Iic.mpr hxy)))
+          (IsTotal.directed _)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/Semicontinuity/Basic.lean]: I think this one should be two spaces to the left

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

File: Mathlib/Topology/Semicontinuity/Basic.lean (hunk 9 above)
Comment (grunweg) [reply Mathlib/Topology/Semicontinuity/Basic.lean]:
```suggestion
        (IsTotal.directed _)
```

**Review by adomani — COMMENTED** [review]
Thanks!  :octopus:

bors merge
